US06989392B2
8-(4-(3,5-dichlorophenoxy)-1-methylbutoxy)quinolin-2-amine
The title compound was prepared according to the procedure described in Example 86 substituting 3,5-dichlorophenol for 8-hydroxyquinaldine. 1H NMR (500 MHz, CDCl3) δ ppm 7.96 (d, 1H), 7.32 (t, 1H), 7.21 (dd, 1H), 7.12 (m, 1H), 6.99 (d, 1H), 6.84 (m, 1H), 6.64 (m, 2H), 4.68 (m, 1H), 4.05 (m, 1H), 3.95 (m, 1H), 2.18 (m, 1H), 2.00 (m, 3H), 1.47 (d, 3H); MS (DCI/NH3) m/z 391 [M+H]+.

reactant | 3,5-dichlorophenol | ClC=1C=C(C=C(C1)Cl)O | C6H4Cl2O
reactant | 8-hydroxyquinaldine | OC=1C=CC=C2C=CC(=NC12)C | C10H9NO
reactant | NH3 | N | H3N
product | 8-(4-(3,5-dichlorophenoxy)-1-methylbutoxy)quinolin-2-amine | ClC=1C=C(OCCCC(OC=2C=CC=C3C=CC(=NC23)N)C)C=C(C1)Cl | C20H20Cl2N2O2
